US04337256
Sodium cyanide and 1-(4-fluorophenyl)-5-chloromethylisoquinoline were reacted in the same way as in step (b) in Example 2 to afford 1-(4-flurophenyl)isoquinoline-5-acetonitrile having a melting point of 136° to 136.5° C.

reactant | Sodium cyanide | [C-]#N.[Na+]
reactant | 1-(4-fluorophenyl)-5-chloromethylisoquinoline | FC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)CCl | C16H11ClFN
product | 1-(4-flurophenyl)isoquinoline-5-acetonitrile | FC1=CC=C(C=C1)C1=NC=CC=2C(=CC=CC12)CC#N | C17H11FN2
